US07517875B2
After dissolving {1-[(3,4-dichlorophenyl)methyl]-4-piperidyl}methylamine (1325 mg, 4.84 mmol) in tetrahydrofuran (20 ml), FmocNCS (9-fluorenylmethoxycarbonyl isothiocyanate) (1498 mg, 5.32 mmol) was added, and the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was concentrated and purified by silica gel column chromatography (hexane/ethyl acetate=85/15) to obtain N-{[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]thioxomethyl}(fluoren-9-ylmethoxy)carboxamide. The compound was identified by LC-MS.

reactant | {1-[(3,4-dichlorophenyl)methyl]-4-piperidyl}methylamine | 4.84 mmol, 1325 mg | ClC=1C=C(C=CC1Cl)CN1CCC(CC1)CN | C13H18Cl2N2
reactant | 9-fluorenylmethoxycarbonyl isothiocyanate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N=C=S | C16H11NO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-{[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]thioxomethyl}(fluoren-9-ylmethoxy)carboxamide | ClC=1C=C(C=CC1Cl)CN1CCC(CC1)CNC(NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=S | C29H29Cl2N3O2S
